US07834051B2
2-chloro-4-[(6S)-6-methyl-4,7-dioxo-5-azaspiro[2.4]hept-5-yl]benzonitrile
A solution of oxalyl chloride (0.050 mL) in methylene chloride (2.0 mL) was cooled to −60° C., dimethyl sulfoxide (0.062 mL) was added dropwise, and the mixture was stirred at the same temperature for 30 min. A solution of 2-chloro-4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile (40.1 mg) in methylene chloride (2.5 mL) was added dropwise to the reaction mixture, and the mixture was stirred at −40° C. for 1 hr. Triethylamine (0.202 mL) was added, and the mixture was stirred at 0° C. for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/1) to give the title compound as a pale-yellow oil (yield: 35 mg, 88%).

reactant | oxalyl chloride | 0.050 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.062 mL | CS(=O)C | C2H6OS
reactant | 2-chloro-4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile | 40.1 mg | ClC1=C(C#N)C=CC(=C1)N1C(C2(CC2)[C@H]([C@@H]1C)O)=O | C14H13ClN2O2
reactant | Triethylamine | 0.202 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-chloro-4-[(6S)-6-methyl-4,7-dioxo-5-azaspiro[2.4]hept-5-yl]benzonitrile | yield: 35 mg, 88% | ClC1=C(C#N)C=CC(=C1)N1C(C2(CC2)C([C@@H]1C)=O)=O | C14H11ClN2O2
